* C:\Users\Matt\Dropbox\Documents\GitHub\12V-24V-Boost-Converter\LTSpice\Boost_test1.asc
M1 N001 G 0 0 AP9465GEM
V1 Vbat 0 12V
L1 Vbat N001 3.7m
D1 N001 N002 MMSD4148
C1 N002 0 220µ
R1 N002 0 50
V2 PWM 0 PULSE(0 12 0 1n 1n 125u 250u)
Q1 Vbat N003 N004 0 2N5210
Q2 0 N003 N004 0 2N5087
R2 G N004 33
R3 Vbat N003 2K
M2 N003 PWM 0 0 BSZ060NE2LS
.model D D
.lib C:\Users\Matt\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Matt\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Matt\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 100m
.backanno
.end
